US06534546B1
Synthesis of N-(3-nitrophenylmethyl)benzylamine
To a solution of m-nitrobenzyl bromide (1.0 g) and diisopropylethylamine (1.19 g) in methanol (50 ml), benzyl bromide (495 mg) was added dropwise under ice cooling. The reaction mixture was stirred at room temperature for 3 days and, after addition of water, extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=4:1) to give 555 mg of the titled compound (yield, 50%).

reactant | m-nitrobenzyl bromide | 1.0 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | diisopropylethylamine | 1.19 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl bromide | 495 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | N-(3-nitrophenylmethyl)benzylamine | 555 mg, 50% | [N+](=O)([O-])C=1C=C(C=CC1)CNCC1=CC=CC=C1 | C14H14N2O2
